US08685970B2
To a solution of 6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidin-4-amine (50 mg, 163 mmol) in DMF (1 mL) was added HATU (124 mg, 330 mmol), pyridine-2-carboxylic acid (20 mg, 163 mmol) and DIPEA (0.07 mL, 330 mmol). The mixture was stirred at room temperature for 18 hours. The reaction mixture was treated with water and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4), concentrated to dryness and the crude product was purified by prep-TLC (10% Methanol in CH2Cl2) to afford N-(6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidin-4-yl)picolinamide as a yellow solid (57 mg, 85% yield). MS (ESI) calcd for C20H12F3N5O2 (m/z): 411.09. found: 412 [M+1].

reactant | 6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidin-4-amine | 163 mmol, 50 mg | FC(OC=1C=C(C=CC1)C=1C=CC=2N=CN=C(C2N1)N)(F)F | C14H9F3N4O
reactant | HATU | 330 mmol, 124 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyridine-2-carboxylic acid | 163 mmol, 20 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | DIPEA | 330 mmol, 0.07 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(6-(3-(trifluoromethoxy)phenyl)pyrido[3,2-d]pyrimidin-4-yl)picolinamide | 57 mg, 85% yield | FC(OC=1C=C(C=CC1)C=1C=CC=2N=CN=C(C2N1)NC(C1=NC=CC=C1)=O)(F)F | C20H12F3N5O2
